### PR TITLE
[Merged by Bors] - feat: more `eLpNorm` API

### PR DESCRIPTION
**Pull request by YaelDillies**
Make more arguments to rewriting lemmas explicit, more arguments to the other lemmas implicit. Add various lemmas.

From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 1]
```diff
@@ -839,12 +847,26 @@ theorem eLpNorm_smul_measure_of_ne_zero {p : ℝ≥0∞} {f : α → F} {c : ℝ
...
   · exact eLpNorm_smul_measure_of_ne_zero_of_ne_top hp0 hp_ne_top c
 
+/-- See `eLpNorm_smul_measure_of_ne_top'` for a version with scalar multiplication by `ℝ≥0∞`. -/
+lemma eLpNorm_smul_measure_of_ne_top' (hp : p ≠ ∞) (c : ℝ≥0) (f : α → F) :
+    eLpNorm f p (c • μ) = c ^ p.toReal⁻¹ • eLpNorm f p μ := by
+  have : 0 ≤ p.toReal⁻¹ := by positivity
+  refine (eLpNorm_smul_measure_of_ne_top hp ..).trans ?_
+  simp [ENNReal.smul_def, ENNReal.coe_rpow_of_nonneg, this]
+
+
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:869]:
```suggestion

```

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+
